US06277987B1
A solution of the title A compound, (2R)-(4′-chlorobiphenyl-4-sulfonylamino)-5-(1,3-dioxo-1,3-dihydroisoindol-2-yl)pentanoic acid O-tritylhydroxyamide (288 mg, 0.374 mmol) in 3 mL of dichloromethane is treated sequentially with triethylsilane (0.119 mL, 0.745 mmol) and trifluoroacetic acid (0.225 mL, 2.92 mmol) at 0° C. After 10 min, the solution is concentrated at 0° C. in a stream of nitrogen, and the residue is triturated from 5 mL of diethyl ether. The product is collected by vacuum filtration and dried to give 162.3 mg (82%) of (2R)-(4′-chlorobiphenyl-4-sulfonylamino)-5-(1,3-dioxo-1,3-dihydroisoindol-2-yl)pentanoic acid hydroxyamide as a white solid: m.p. 204-206° C. (dec); NMR(DMSO-d6) 1.24-1.33 (br m, 1H), 1.37-1.50 (br m, 3H), 3.39-3.47 (m, 2H), 3.52-3.62 (m, 1H), 7.53 (d, 2H, J=8.3), 7.70 (d, 2H, J=8.3), 7.80 (br s, 8H), 8.12 (d, 1H, J=8.5), 8.82 (br s, 1H), 10.56 (s, 1H); IR 1772, 1341, 1159; ESI-MS 528 (M++1).

reactant | (2R)-(4′-chlorobiphenyl-4-sulfonylamino)-5-(1,3-dioxo-1,3-dihydroisoindol-2-yl)pentanoic acid O-tritylhydroxyamide | 0.374 mmol, 288 mg | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)ONC([C@@H](CCCN1C(C2=CC=CC=C2C1=O)=O)NS(=O)(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)Cl)=O | C44H36ClN3O6S
reactant | triethylsilane | 0.745 mmol, 0.119 mL | C(C)[SiH](CC)CC | C6H16Si
reactant | trifluoroacetic acid | 2.92 mmol, 0.225 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | (2R)-(4′-chlorobiphenyl-4-sulfonylamino)-5-(1,3-dioxo-1,3-dihydroisoindol-2-yl)pentanoic acid hydroxyamide | 162.3 mg, 82% | ONC([C@@H](CCCN1C(C2=CC=CC=C2C1=O)=O)NS(=O)(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)Cl)=O | C25H22ClN3O6S
